* IRF9640 ABM dynamic-basic model generated by datasheet2spice Web Workbench
* Dialect: ltspice. Browser output mirrors the Python ABM starter semantics.
* Review against datasheet and lab waveforms before design use.
.subckt IRF9640 D G S PARAMS: TJ=25 LD=2n LS=1n LG=0.2n RGEXT=4.7 RON_SCALE=1 CGS_SCALE=1 CGD_SCALE=1 CDS_SCALE=1 VSMOOTH=0.35
.param RGINT=1
.param KID=1.3888888888888888
.param RON={RON_SCALE*table(TJ, 25,20m)}
.param VTH={table(TJ, 25,4)}
.func VDSX(v) {limit(abs(v),0.1,1000)}
.func VOV_F(vgs) {0.5*((vgs-VTH)+sqrt((vgs-VTH)*(vgs-VTH)+VSMOOTH*VSMOOTH))}
.func IDSAT_F(vgs) {max(KID*VOV_F(vgs)*VOV_F(vgs),1u)}
.func CISS_F(v) {table(VDSX(v), 0.1,2400p, 1,2200p, 10,2000p, 100,1960p, 134,1940p)}
.func COSS_F(v) {table(VDSX(v), 0.1,1500p, 1,900p, 10,420p, 100,315p, 134,300p)}
.func CRSS_F(v) {table(VDSX(v), 0.1,240p, 1,90p, 10,42p, 100,31.5p, 134,30p)}
.func CGS_F(v) {CGS_SCALE*max(CISS_F(v)-CRSS_F(v),1p)}
.func CGD_F(v) {CGD_SCALE*max(CRSS_F(v),1p)}
.func CDS_F(v) {CDS_SCALE*max(COSS_F(v)-CRSS_F(v),1p)}
Ld D d_int {LD}
Lg G g_pad {LG}
Ls S s_int {LS}
Rg g_pad g_int {RGINT+RGEXT}
Bch d_int s_int I = {IDSAT_F(V(g_int,s_int))*tanh(V(d_int,s_int)/(RON*IDSAT_F(V(g_int,s_int))+1m))}
Bgs g_int s_int I = {CGS_F(V(d_int,s_int))*ddt(V(g_int,s_int))}
Bgd g_int d_int I = {CGD_F(V(d_int,s_int))*ddt(V(g_int,d_int))}
Bds d_int s_int I = {CDS_F(V(d_int,s_int))*ddt(V(d_int,s_int))}
Dbody s_int d_int DBODY
.model DBODY D(Is=1e-12 N=2 Rs=31m Cjo=270p M=0.45 Vj=1.0 Tt=30n BV=200 Ibv=30m)
Rgate_leak g_int s_int 1e12
.ends IRF9640
