**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* March 2001
*   SPICE3
*                    anode     cathode
* Reverse direction: node 9 <- node 2
*
* --- LTspice compatibility fix -------------------------------
* Original file used PSpice-style semiconductor resistors that
* combine a plain value AND a separate .MODEL reference for
* temperature coefficients (RL...RLMOD, RBVC...RBVCMOD). LTspice
* doesn't accept that combined form and errors as "Unknown
* parameter" on the model name. Fix: drop the model references.
* RLMOD had TC1=TC2=0 (no effect at all), RBVCMOD had TC1=0.0009
* (0.09%/degC -- negligible near room temp), so this changes
* nothing meaningful in a normal-temperature transient sim.
* ---------------------------------------------------------------
.SUBCKT smbj33a 9 2
DF 9 90 DFMOD
.MODEL DFMOD D N = 2 IS = 1E-009 RS = 0.037683
+ EG = 1.11 XTI = 3
+ CJO = 1.275E-009 VJ = 2.94811 M = 0.42 FC = 0.5
+ TT = 1E-008 TNOM = 25
* Leakage
RL 9 90 3.34464E+007
* Breakdown
RBD 90 4 1.28508
EBD 4 3 10 20 1
DBD 3 9 DBDMOD TEMP = 25
.MODEL DBDMOD D IS = 1E-015 N = 0.5 TNOM = 25
IBVC 0 10 0.001
RBVC 10 0 38650
RBDX 20 23 1.28508
DBVC 23 0 DBDMOD TEMP = 25
IBVD 0 20 0.001
L1 90 2 1E-015
.ENDS
